US05935966
ETHYL ETHOXYMETHYLENE-4,4,4-TRIFLUOROACETOACETATE
A solution of ethyl 4,4,4-trifluoroacetoacetate (46 g, 0.25 mol) triethyl orthoformate (74 g, 0.50 mol) and Ac2O (77 g, 0.75 mol) was heated at 120-140° C. for 7 h. The mixture was concentrated and distilled to give the title compound in a 98% yield (58.6 g); b.p. 80-90° C., 1.5 mm/Hg.

reactant | ethyl 4,4,4-trifluoroacetoacetate | 0.25 mol, 46 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | Ac2O | 0.75 mol, 77 g | CC(=O)OC(=O)C | C4H6O3
product | ETHYL ETHOXYMETHYLENE-4,4,4-TRIFLUOROACETOACETATE | 98% yield | C(C)OC=C(C(=O)OCC)C(=O)C(F)(F)F | C9H11F3O4
